US07977344B2
6-Amino-2-butylamino-9-(tetrahydro-2H-Pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one
To a solution of N2-butyl-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purine-2,6-diamine (310 mg) in dry methanol (30 ml) at room temperature and under nitrogen was added 4.0M hydrogen chloride in 1,4-dioxane (5.5 ml) in one go. The reaction was left to stir at room temperature for 16 hours. The reaction was neutralised by the addition of 2.0M sodium hydroxide solution and concentrated in vacuo. The residue was taken up in water (10 ml) and the solid filtered and dried on the rotary evaporator (60° C.) for 30 minutes. This afforded the title compound as a solid (170 mg).

reactant | N2-butyl-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purine-2,6-diamine | 310 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CC1CCOCC1)OC)N | C16H26N6O2
reactant | hydrogen chloride | 4.0M | Cl | ClH
reactant | sodium hydroxide | 2.0M | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | 1,4-dioxane | 5.5 ml | O1CCOCC1 | C4H8O2
product | 6-Amino-2-butylamino-9-(tetrahydro-2H-Pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one | 170 mg | NC1=C2NC(N(C2=NC(=N1)NCCCC)CC1CCOCC1)=O | C15H24N6O2
